US03988380
1.92 g of diethyl 2-butenephosphonate was placed in 10 ml. of dry tetrahydrofuran, and the solution was cooled to -70° C. in an atmosphere of argon. 7 ml. of n-butyl lithium (as a 15% by weight n-hexane solution) was gradually added, and the mixture was stirred at -70° C. for 1 hour. The reaction mixture was turbid assuming a pale yellow color. When 1.7 g of benzyl chloride was added to this mixture, it became clear. The temperature of the reaction mixture was gradually elevated to room temperature, and it was stirred for an additional 2 hours. The reaction mixture was then diluted with dilute hydrochloric acid, and extracted with ether. The extract was washed with a solution of sodium hydrogen carbonate, washed with water, and dried. The solution was concentrated, and then the residue was distilled at reduced pressure to afford 2.33 g of diethyl 1-benzyl-2-butenephosphonate having a boiling point of 144° C. (0.3 mmHg) in a yield of 93%. The analysis values of the product were as follows:

reactant | diethyl 2-butenephosphonate | 1.92 g | C(C=CC)P(OCC)(=O)OCC | C8H17O3P
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | benzyl chloride | 1.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | hydrochloric acid | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
product | diethyl 1-benzyl-2-butenephosphonate | 2.33 g, yield of 93% | C(C1=CC=CC=C1)C(C=CC)P(OCC)(=O)OCC | C15H23O3P
